US08071776B2
3-Amino-5-chloro-6-([1,3]dioxolan-4-ylmethoxy)-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide
To a solution of glycerol formal (0.729 g, 7.0 mmol) in THF (3 ml) at room temperature is added dropwise a solution of lithium bis(trimethylsilyl)amide (1.0 M in hexanes)(3.50 ml, 3.50 mmol). The reaction mixture is stirred for 15 minutes and then is treated with 3-amino-5-chloro-6-methanesulfinyl-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide (0.345 g, 1.00 mmol). The reaction mixture is heated at 75° C. in a sealed tube for 1.5 hours, cooled to room temperature, and then quenched by the addition of water (10 ml). The reaction mixture is transferred to an erlenmeyer flask and diluted to 75 ml with water. The mixture is cooled to 0° C. and stirred. During this time, a white precipitate is formed. This solid is collected by filtration and slurried in a 2:1 EtOAc:hexane mixture. This slurry is stirred for 10 minutes, filtered, and the collected solid is placed in the vacuum oven to dry (60° C. for 16 hours). This affords the title compound as a white solid (0.195 g, 51%). Mass (m/z): 384.1 (M++1), 382.1 (M+−1).

reactant | glycerol formal | 7.0 mmol, 0.729 g | C1C(OCO1)CO | C4H8O3
reactant | lithium bis(trimethylsilyl)amide | 3.50 mmol, 1.0 M, 3.50 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-amino-5-chloro-6-methanesulfinyl-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 1.00 mmol, 0.345 g | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)S(=O)C)S1)N | C13H14ClN3O2S2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-Amino-5-chloro-6-([1,3]dioxolan-4-ylmethoxy)-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 0.195 g, 51% | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)OCC2OCOC2)S1)N | C16H18ClN3O4S
